US06335334B1
116.) 5-Chloro-N-(4-(morpholine-4-sulfonyl)-phenyl)-2-nitro-benzamide
120.00 g (0.33 mol) of 4-(5-chloro-2-nitro-benzoylamino)-benzenesulfonyl fluoride, 29.10 g (0.33 mol) of morpholine and 33.85 g (0.33 mol) of triethylamine were stirred in 1200 ml of toluene at 60° C. for 2 days. The precipitated solid was filtered off with suction and recrystallized from acetone/n-hexane. 102.10 g (71%) of the title compound having a melting point of 243-245° C. were obtained.

reactant | 4-(5-chloro-2-nitro-benzoylamino)-benzenesulfonyl fluoride | 0.33 mol, 120.00 g | ClC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)S(=O)(=O)F)C1)[N+](=O)[O-] | C13H8ClFN2O5S
reactant | morpholine | 0.33 mol, 29.10 g | N1CCOCC1 | C4H9NO
reactant | triethylamine | 0.33 mol, 33.85 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 1200 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-N-(4-(morpholine-4-sulfonyl)-phenyl)-2-nitro-benzamide | ClC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)S(=O)(=O)N2CCOCC2)C1)[N+](=O)[O-] | C17H16ClN3O6S
